US07579488B2
Preparation of [(5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carbonyl)-amino]-acetic acid
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid (520 mg, 1.154 mmol) in CH2Cl2 (10 mL) and DMAP (422 mg, 3.46 mmol), EDC (332 mg, 1.73 mmol), and glycine methyl ester hydrochloride (217 mg, 1.73 mmol) are reacted and hydrolyzed analogous to Example 7 to yield title compound (390 mg, 100%).

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid | 1.154 mmol, 520 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1)C)=O)(C)C | C28H34O5
reactant | EDC | 1.73 mmol, 332 mg
reactant | glycine methyl ester hydrochloride | 1.73 mmol, 217 mg | Cl.COC(CN)=O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3.46 mmol, 422 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carbonyl)-amino]-acetic acid | 390 mg, 100% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C(=C(O2)C(=O)NCC(=O)O)C)C1)C)=O)(C)C | C30H37NO6
